US07915261B2
4 M hydrogen chloride/EtOAc solution (70 ml) was added to tert-butyl 4-(phenylethynyl)piperidine-1-carboxylate (7.0 g), followed by stirring at room temperature for 30 minutes. The solvent was evaporated to obtain 4-(phenylethynyl)piperidine hydrochloride (5.4 g) as a white powder.

reactant | tert-butyl 4-(phenylethynyl)piperidine-1-carboxylate | 7.0 g | C1(=CC=CC=C1)C#CC1CCN(CC1)C(=O)OC(C)(C)C | C18H23NO2
reactant | hydrogen chloride EtOAc | 4 M, 70 ml | Cl.CCOC(=O)C
product | 4-(phenylethynyl)piperidine hydrochloride | 5.4 g | Cl.C1(=CC=CC=C1)C#CC1CCNCC1 | InChI=1S/C13H15N.ClH/c1-2-4-12(5-3-1)6-7-13-8-10-14-11-9-13;/h1-5,13-14H,8-11H2;1H
